US08039463B2
DIPEA (57 mg, 0.078 mL, 0.45 mmol) was added dropwise to N-[5-(4-fluoro-phenyl)-isoxazol-3-yl]-malonamic acid (40 mg, 0.15 mmol) in DMF (2 mL) followed by EDCI (35 mg, 0.18 mmol) and HOBT (24 mg, 0.18 mmol). After 2 minutes, (2-bromo-phenyl)-piperazin-1-yl-methanone hydrochloride (55 mg, 0.18 mmol) was added and stirring was continued at room temperature overnight. The reaction mixture was quenched with cold water and was then extracted with ethyl acetate, washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Purification by preparative HPLC afforded 22 mg (28.27% yield) of 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-N-[5-(4-fluoro-phenyl)-isoxazol-3-yl]-3-oxo-propionamide. LC/MS [M+H]+: 515.07, 96.02%. 1H NMR (300 MHz, DMSO-d6): δ 11.4-11.2 (m, 1H), 7.8 (m, 2H), 7.6 (d, 1H), 7.4-7.2 (m, 5H), 7.1 (t, 2H), 6.6 (d, 1H), 4.1-3.9 (m, 2H), 3.8-3.2 (m, 10H).

reactant | DIPEA | 0.45 mmol, 0.078 mL, 57 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-[5-(4-fluoro-phenyl)-isoxazol-3-yl]-malonamic acid | 0.15 mmol, 40 mg | FC1=CC=C(C=C1)C1=CC(=NO1)NC(CC(=O)O)=O | C12H9FN2O4
reactant | EDCI | 0.18 mmol, 35 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.18 mmol, 24 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2-bromo-phenyl)-piperazin-1-yl-methanone hydrochloride | 0.18 mmol, 55 mg | Cl.BrC1=C(C=CC=C1)C(=O)N1CCNCC1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-N-[5-(4-fluoro-phenyl)-isoxazol-3-yl]-3-oxo-propionamide | 22 mg, 28.27% yield | BrC1=C(C(=O)N2CCN(CC2)C(CC(=O)NC2=NOC(=C2)C2=CC=C(C=C2)F)=O)C=CC=C1 | C23H20BrFN4O4
